2145-11-23 07:59:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   24 Hour Events:
 DIALYSIS CATHETER - START [**2145-11-22**] 08:35 PM
   patient is on reg HD? last HD on [**11-21**]
   -Hypotensive off pressors during the day, gave 500cc fluid bolus, still
   hypotensive so restarted low dose levophed
   -Cardiac Enzymes negative x2
   -Renal to dialyze today
   Allergies:
   Clindamycin
   Diarrhea;
   Zemplar (Intraven.) (Paricalcitol)
   Rash;
   Levofloxacin
   Nausea/Vomiting
   Trazodone
   Unknown;
   Doxycycline
   Nausea/Vomiting
   Haldol (Injection) (Haloperidol Lactate)
   pruritus;
   Last dose of Antibiotics:
   Vancomycin - [**2145-11-22**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-11-23**] 12:42 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2145-11-22**] 06:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, Dyspnea
   Gastrointestinal: Nausea
   Flowsheet Data as of  [**2145-11-23**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 112 (100 - 112) bpm
   BP: 91/54(61) {75/44(50) - 110/63(74)} mmHg
   RR: 13 (12 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,744 mL
                                                                    146 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  1,739 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,744 mL
                                                                    146 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally but
   improved from previously)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   524 K/uL
   9.0 g/dL
   154 mg/dL
   4.3 mg/dL
   29 mEq/L
   3.9 mEq/L
   30 mg/dL
   100 mEq/L
   139 mEq/L
   28.2 %
   18.8 K/uL
        [image002.jpg]
                            [**2145-11-22**]  06:00 AM
                            [**2145-11-22**]  03:00 PM
                            [**2145-11-23**]  05:23 AM
   WBC
   10.7
   18.8
   Hct
   28.4
   28.2
   Plt
   468
   524
   Cr
   4.0
   4.3
   TropT
   0.14
   0.14
   0.13
   Glucose
   359
   154
   Other labs: PT / PTT / INR:14.9/27.6/1.3, CK / CKMB /
   Troponin-T:9//0.13, ALT / AST:[**5-8**], Alk Phos / T Bili:205/1.3, Lactic
   Acid:1.3 mmol/L, Albumin:2.3 g/dL, LDH:182 IU/L, Ca++:9.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.5 mg/dL
   Imaging: CXR:
   IMPRESSION:
   1. Diffuse patchy airspace opacities with central prominence near the
   hila
   consistent with alveolar edema.
   2. Cardiomegaly, stable.
   3. Probable small right pleural effusion.
   ----------
   Ultrasound:
   IMPRESSION:
   1. Layering echogenic material in the gallbladder which may represent
   stones,
   sludge or possibly milk of calcium. No evidence of cholecystitis.
   2. Ascites.
   Microbiology: NGTD
   Assessment and Plan
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE I
 HYPOTENSION (NOT SHOCK)
   .
   Assessment and Plan: 44 y/o F w. DM, CAD, prior CABG h/o MRSA line
   infections presents from HD with hypotension.
   .
   # Hypotension: Increasing concern for line infection.  Given rising WBC
   count, ongoing pressor requirement and tachycardia.  However, no growth
   from cultures to date.  Would repeat surveillance cultures today.  [**Month (only) 60**]
   also be pneumonia although CXR most c/w volume overload.  Reinspect
   wound today for changes although this is unlikely site of infection
   based on initial inspection.  SBP is additional consideration given
   moderate ascites, but in absence of liver disease is very unlikely.
   -Will wean pressors and assess need for BP support by mental status.
   -Consider fluid boluses although appears volume overloaded on exam
   - Pan culture with Blood, sputum (if any), CXR, do not feel tap for SBP
   warranted at this time given exam/history/labs.
   - continue empiric vanco/zosyn for now, narrow at 48 hours if no
   pressor requirement and no culture growth
   - Consider ECHO for interval change in systolic function, tamponade,
   other cardiac cause for hypotension
   - r/o C. Diff
   - Wound culture
   .
   #Volume/ESRD: Renal planning for HD today.  Unclear if she will be able
   to tolerate HD and may need CVVH given hypotension and pressor
   requirement.
   -Total body volume overloaded.
   .
   # Diarrhea: resolved, follow stools.  Given nursing home resident
   taking abx as outpatient would rule out C. Diff infection.\
   - c. diff studies
   - guaiac stools.
   .
   # CAD: Continue outpatient medications except BP meds
   - hold lisinopril, atenolol
   .
   # Diabetes: Last A1c was 7.4, erratic glucose control last 24 hours
   with PM hypoglycemia.  Continue sliding scale for now, and dial down PM
   doses as needed for hypoglycemia.
   - Continue insulin regimen.
   - Clarify home doses.
   .
   # Anemia: Likely Anemia of chronic disease due to ESRD, but given
   report of bloody stools, and patient mildly off baseline would guaiac
   stools.  Ferritin 490 in [**Month (only) **] so not likely to be iron deficient
   unless having acute blood loss in stools.
   - Hct stable, continue to trend
   .
   #Psych: Ongoing difficulty with participating in care plan, but able to
   negotiate with patient at this time.  If continues to be refusing care
   would recommend psychiatry involvement for assistance.
   .
   # FEN: replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin,
   .
   # Access: femoral line placed on night of admission in ED, TDC,
   consider change of TDC if cultures turn positive
   .
   # Code: presumed full
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-11-22**] 02:30 AM
   20 Gauge - [**2145-11-22**] 02:32 AM
   Dialysis Catheter - [**2145-11-22**] 08:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Sucralafate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-11-24 07:46:00 Physician Resident Progress Note
Chief Complaint: Hypotension at HD
   24 Hour Events:
   - Psychiatry offered additional information that patient had scheduled
   inpatient psychiatric admission for this week, group home wishes this
   to occur prior to her return. Psychiatry will comment on ways ICU team
   can help develop behavoiral plan for patient as well as any medications
   - SBP was 70-72 overnight, levophed re-started at low dose given
   lactate was elevated
   - Refused finger stick, then agreed
   - Transthoracic echo without significant change as compared to [**2-/2145**]
   - Dialysis deferred until BP stabalizes
   - Sacral wound cultured
   Allergies:
   Clindamycin
   Diarrhea;
   Zemplar (Intraven.) (Paricalcitol)
   Rash;
   Levofloxacin
   Nausea/Vomiting
   Trazodone
   Unknown;
   Doxycycline
   Nausea/Vomiting
   Haldol (Injection) (Haloperidol Lactate)
   pruritus;
   Last dose of Antibiotics:
   Vancomycin - [**2145-11-22**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-11-24**] 06:30 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Gastrointestinal: Abdominal pain, Nausea, intermittent, position
   dependent, greatest in lower abdomen which patient thinks is due to her
   gall-bladder
   Flowsheet Data as of  [**2145-11-24**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.8
C (96.5
   HR: 104 (90 - 123) bpm
   BP: 95/55(65) {73/39(47) - 109/64(75)} mmHg
   RR: 14 (10 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    377 mL
                                                                    147 mL
   PO:
             TF:
   IVF:
                                                                    377 mL
                                                                    147 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    377 mL
                                                                    147 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally wet)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: mildly tender
   to palpation in lower abdomen w/o localizing symptoms
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   450 K/uL
   8.5 g/dL
   196 mg/dL
   4.9 mg/dL
   28 mEq/L
   4.0 mEq/L
   36 mg/dL
   99 mEq/L
   136 mEq/L
   27.1 %
   16.9 K/uL
        [image002.jpg]
                            [**2145-11-22**]  06:00 AM
                            [**2145-11-22**]  03:00 PM
                            [**2145-11-23**]  05:23 AM
                            [**2145-11-23**]  12:26 PM
                            [**2145-11-24**]  03:49 AM
   WBC
   10.7
   18.8
   16.9
   Hct
   28.4
   28.2
   27.1
   Plt
   468
   524
   450
   Cr
   4.0
   4.3
   4.6
   4.9
   TropT
   0.14
   0.14
   0.13
   Glucose
   359
   154
   304
   196
   Other labs: PT / PTT / INR:15.9/28.2/1.4, CK / CKMB /
   Troponin-T:9//0.13, ALT / AST:[**5-8**], Alk Phos / T Bili:205/1.3, Lactic
   Acid:1.8 mmol/L, Albumin:2.3 g/dL, LDH:182 IU/L, Ca++:9.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Imaging: TTE: Echo unchanged from prior, EF 25-30%
   Microbiology: NGTD, C. Diff negative x1
   Assessment and Plan
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE I
 HYPOTENSION (NOT SHOCK)
   Assessment and Plan: 44 y/o F w. DM, CAD, prior CABG h/o MRSA line
   infections presents from HD with hypotension.
   .
   # Hypotension: Ongoing pressor requirement, weaning levophed as
   tolerated.  Pneumonia vs. occult infection vs. intraabdominal process.
   Abdominal pain appears to be a chronic issue.  would consider CT A/P
   pelvis
   - Place A-line today to confirm BP [**Location (un) 308**]
   - CT C/A/P today to eval for further sources for hypotension
   - wean pressors as tolerated and go by mental status with MAP > 55
   - continue empiric vanco/zosyn for now for pneumonia
   - TTE: unchanged
   - C. Diff negative
   - Wound culture pending
   - trend lactate today
   - repeat cultures today, with plan for 1 set of dialysis line
   .
   #Volume/ESRD: Renal planning for HD today.  Unclear if she will be able
   to tolerate HD and may need CVVH given hypotension and pressor
   requirement.
   -Total body volume overloaded.
   .
   # Diarrhea: resolved, follow stools.  Given nursing home resident
   taking abx as outpatient would rule out C. Diff infection.
   - c. diff studies negative x1
   - guaiac stools.
   .
   # CAD: Continue outpatient medications except BP meds
   - hold lisinopril, atenolol
   .
   # Diabetes: Last A1c was 7.4, erratic glucose control last 24 hours
   with PM hypoglycemia.  Continue sliding scale for now, and dial down PM
   doses as needed for hypoglycemia.
   - Continue insulin regimen.
   - Clarify home doses.
   .
   # Anemia: Likely Anemia of chronic disease due to ESRD, but given
   report of bloody stools, and patient mildly off baseline would guaiac
   stools.  Ferritin 490 in [**Month (only) **] so not likely to be iron deficient
   unless having acute blood loss in stools.
   - Hct stable, continue to trend
   .
   #Psych: Will need inpatient psych admission following this hospital
   stay.  Ongoing difficulty with participating in care plan, psych to
   assist with forming care plan.
   - appreciate psych rec's
   .
   # FEN: replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin, H2 blocker
   .
   # Access: femoral line placed on night of admission in [**Last Name (LF) **], [**First Name3 (LF) 178**] need to
   consider change of femoral line today given now 48 hours since placed,
   TDC, consider change of TDC if cultures turn positive
   .
   # Code: full - confirmed with patient
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-11-22**] 02:30 AM
   20 Gauge - [**2145-11-22**] 02:32 AM
   Dialysis Catheter - [**2145-11-22**] 08:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-11-24 10:54:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 year old woman with Type I DM, ESRD admitted with hypotension at HD.
   Please see previous notes for details.
   24 Hour Events:
   Back on pressors yesterday for SBP 60's with increase lactate.
   TTE stable.
   Allergies:
   Clindamycin
   Diarrhea;
   Zemplar (Intraven.) (Paricalcitol)
   Rash;
   Levofloxacin
   Nausea/Vomiting
   Trazodone
   Unknown;
   Doxycycline
   Nausea/Vomiting
   Haldol (Injection) (Haloperidol Lactate)
   pruritus;
   Last dose of Antibiotics:
   Vancomycin - [**2145-11-22**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-11-24**] 06:30 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-24**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 105 (90 - 115) bpm
   BP: 107/90(94) {73/39(47) - 109/90(94)} mmHg
   RR: 26 (8 - 37) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    377 mL
                                                                    429 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                    377 mL
                                                                    189 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    377 mL
                                                                    429 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l)
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   450 K/uL
   196 mg/dL
   4.9 mg/dL
   28 mEq/L
   4.0 mEq/L
   36 mg/dL
   99 mEq/L
   136 mEq/L
   27.1 %
   16.9 K/uL
        [image002.jpg]
                            [**2145-11-22**]  06:00 AM
                            [**2145-11-22**]  03:00 PM
                            [**2145-11-23**]  05:23 AM
                            [**2145-11-23**]  12:26 PM
                            [**2145-11-24**]  03:49 AM
   WBC
   10.7
   18.8
   16.9
   Hct
   28.4
   28.2
   27.1
   Plt
   468
   524
   450
   Cr
   4.0
   4.3
   4.6
   4.9
   TropT
   0.14
   0.14
   0.13
   Glucose
   359
   154
   304
   196
   Other labs: PT / PTT / INR:15.9/28.2/1.4, CK / CKMB /
   Troponin-T:9//0.13, ALT / AST:[**5-8**], Alk Phos / T Bili:205/1.3, Lactic
   Acid:1.8 mmol/L, Albumin:2.3 g/dL, LDH:182 IU/L, Ca++:9.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   44 year old woman with ESRD on HD with persistent hypotension.
   Continues on vanc/zosysn. Volume overloaded by exam, cxr in the setting
   of holding HD. No changes on TTE.
   Will place aline today, continue Levophed as needed. Pan-scan to look
   for additional septic source. Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:  Regular insulin sliding scale and long acting
   insulin
   Lines:
   Multi Lumen - [**2145-11-22**] 02:30 AM
   20 Gauge - [**2145-11-22**] 02:32 AM
   Dialysis Catheter - [**2145-11-22**] 08:35 PM
   Prophylaxis:
   DVT: Heparin sub-Q
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2145-11-25 07:39:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   24 Hour Events:
 BLOOD CULTURED - At [**2145-11-24**] 12:00 PM
   from new A-line
 ARTERIAL LINE - START [**2145-11-24**] 12:33 PM
 BLOOD CULTURED - At [**2145-11-24**] 02:00 PM
   from HD line
   -----
   - HD performed with 3L Fluid removal
   - CT Torso
   Allergies:
   Clindamycin
   Diarrhea;
   Zemplar (Intraven.) (Paricalcitol)
   Rash;
   Levofloxacin
   Nausea/Vomiting
   Trazodone
   Unknown;
   Doxycycline
   Nausea/Vomiting
   Haldol (Injection) (Haloperidol Lactate)
   pruritus;
   Last dose of Antibiotics:
   Vancomycin - [**2145-11-24**] 04:29 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-11-25**] 04:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2145-11-24**] 06:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-25**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.2
   HR: 99 (99 - 111) bpm
   BP: 77/57(66) {48/40(44) - 81/74(277)} mmHg
   RR: 14 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,100 mL
                                                                    195 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    620 mL
                                                                    195 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,900 mL
                                                                    195 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally at bases
   improved from prio)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   328 K/uL
   8.1 g/dL
   109 mg/dL
   3.7 mg/dL
   26 mEq/L
   3.8 mEq/L
   24 mg/dL
   101 mEq/L
   136 mEq/L
   26.0 %
   15.0 K/uL
        [image002.jpg]
                            [**2145-11-22**]  06:00 AM
                            [**2145-11-22**]  03:00 PM
                            [**2145-11-23**]  05:23 AM
                            [**2145-11-23**]  12:26 PM
                            [**2145-11-24**]  03:49 AM
                            [**2145-11-24**]  07:16 PM
                             [**2145-11-25**]  05:39 AM
   WBC
   10.7
   18.8
   16.9
   15.0
   Hct
   28.4
   28.2
   27.1
   26.0
   Plt
   468
   524
   450
   328
   Cr
   4.0
   4.3
   4.6
   4.9
   3.6
   3.7
   TropT
   0.14
   0.14
   0.13
   Glucose
   359
   154
   304
   196
   117
   109
   Other labs: PT / PTT / INR:15.7/30.3/1.4, CK / CKMB /
   Troponin-T:9//0.13, ALT / AST:[**5-8**], Alk Phos / T Bili:205/1.3, Lactic
   Acid:1.6 mmol/L, Albumin:2.3 g/dL, LDH:182 IU/L, Ca++:10.0 mg/dL,
   Mg++:2.7 mg/dL, PO4:4.0 mg/dL
   Imaging: 1. New slightly denser fluid anterior to the spleen where
   there is a cleft,
   raises the possibility of a splenic laceration (although no active
   extravasation is seen); consider reimaging if hypotension progresses.
   2. Cardiomegaly with bilateral pleural effusions and compressive
   atelectasis.
   3. Increased massive ascites.
   4. Soft tissue in right pelvis likely represents right ovarian remnant;
   consider non-emergent pelvic ultrasound for further evaluation.
   Microbiology: NGTD
   Assessment and Plan
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 DIABETES MELLITUS (DM), TYPE I
 HYPOTENSION (NOT SHOCK)
   ---------
   Assessment and Plan: 44 y/o F w. DM, CAD, prior CABG h/o MRSA line
   infections presents from HD with hypotension.
   .
   # Hypotension: Unclear etiology.  Confirmed by A-line yesterday.  CT
   with finding of possible splenic laceration with unclear clinical
   significance.  Consider further imaging PRN.  Cardiac unlikely given
   echo findings, ECG and CE
s, infectious is more likely but no culture
   growth, must consider atypical types of infection such as peridontal
   abscess, and consider tap of ascitic fluid, r/o C. Diff.  Consider
   sending fungal serologies, and [**Last Name (un) 45**] stim today.
   - Repeat ECG this AM
   - Place A-line today to confirm BP [**Location (un) 308**].
   - CT C/A/P today to eval for further sources for hypotension
   - wean pressors as tolerated and go by mental status with MAP > 55
   - continue empiric vanco/zosyn for now for pneumonia
   - TTE: unchanged
   - C. Diff negative
   - Wound culture pending
   - trend lactate today
   - repeat cultures today, with plan for 1 set of dialysis line
   .
   #Volume/ESRD: Renal dialyzed yesterday.
   -Total body volume overloaded but improved s/p 3L fluid removal.
   .
   # Diarrhea: resolved, follow stools.  Given nursing home resident
   taking abx as outpatient would rule out C. Diff infection.
   - c. diff studies negative x1
   - guaiac stools.
   .
   # CAD: Continue outpatient medications except BP meds
   - hold lisinopril, atenolol
   .
   # Diabetes: Last A1c was 7.4, erratic glucose control last 24 hours
   with PM hypoglycemia.  Continue sliding scale for now, and dial down PM
   doses as needed for hypoglycemia.
   - Continue insulin regimen.
   - Clarify home doses.
   .
   # Anemia: Likely Anemia of chronic disease due to ESRD, but given
   report of bloody stools, and patient mildly off baseline would guaiac
   stools.  Ferritin 490 in [**Month (only) **] so not likely to be iron deficient
   unless having acute blood loss in stools.
   - Hct stable, continue to trend
   .
   #Psych: Will need inpatient psych admission following this hospital
   stay.  Ongoing difficulty with participating in care plan, psych to
   assist with forming care plan.
   - appreciate psych rec's
   .
   # FEN: replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin, H2 blocker
   .
   # Access: femoral line placed on night of admission in [**Last Name (LF) **], [**First Name3 (LF) 178**] need to
   consider change of femoral line today given now 48 hours since placed,
   TDC, consider change of TDC if cultures turn positive
   .
   # Code: full - confirmed with patient
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-11-22**] 02:30 AM
   Dialysis Catheter - [**2145-11-22**] 08:35 PM
   Arterial Line - [**2145-11-24**] 12:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-11-25 10:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2145-11-24**] 12:00 PM
   from new A-line
 ARTERIAL LINE - START [**2145-11-24**] 12:33 PM
 BLOOD CULTURED - At [**2145-11-24**] 02:00 PM
   from HD line
   Underwent CT chest/abd/pelvis yesterday:  Initial preliminary read:
   ?splenic laceration, massive ascites, B/L pleural effusions
   Echo report now back:  RV dilated (not seen on echo in [**2145-2-23**])
   Underwent HD yesterday with 3 liters taken off.
   Ectopy overnight--> Given Magnesium
   Levophed shut off this AM.
   Pt refusing Po meds today
                   History obtained from Patient
   Allergies:
   Clindamycin
   Diarrhea;
   Zemplar (Intraven.) (Paricalcitol)
   Rash;
   Levofloxacin
   Nausea/Vomiting
   Trazodone
   Unknown;
   Doxycycline
   Nausea/Vomiting
   Haldol (Injection) (Haloperidol Lactate)
   pruritus;
   Last dose of Antibiotics:
   Vancomycin - [**2145-11-24**] 04:29 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-11-25**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2145-11-25**] 07:45 AM
   Other medications:
   RISS, sucralfate, Folate, ASA, Zocor, CaCarbonate, Colace, Cinacalcet,
   Nephrocaps, HSQ, Fomotidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Integumentary (skin): No(t) Rash
   Flowsheet Data as of  [**2145-11-25**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.6
   HR: 99 (96 - 111) bpm
   BP: 103/49(60) {83/46(54) - 121/90(94)} mmHg
   RR: 11 (10 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,100 mL
                                                                    219 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    620 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,900 mL
                                                                    219 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), S3, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Absent), (Left radial pulse:
   Absent), (Right DP pulse: Absent), (Left DP pulse: Absent), Dopplerable
   Respiratory / Chest: (Breath Sounds: Crackles : Bilateral, No(t)
   Wheezes : )
   Abdominal: Soft, Distended, No(t) Tender:
   Extremities: Right: 2+, Left: 2+, Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   328 K/uL
   109 mg/dL
   3.7 mg/dL
   26 mEq/L
   3.8 mEq/L
   24 mg/dL
   101 mEq/L
   136 mEq/L
   26.0 %
   15.0 K/uL
        [image002.jpg]
                            [**2145-11-22**]  06:00 AM
                            [**2145-11-22**]  03:00 PM
                            [**2145-11-23**]  05:23 AM
                            [**2145-11-23**]  12:26 PM
                            [**2145-11-24**]  03:49 AM
                            [**2145-11-24**]  07:16 PM
                             [**2145-11-25**]  05:39 AM
   WBC
   10.7
   18.8
   16.9
   15.0
   Hct
   28.4
   28.2
   27.1
   26.0
   Plt
   468
   524
   450
   328
   Cr
   4.0
   4.3
   4.6
   4.9
   3.6
   3.7
   TropT
   0.14
   0.14
   0.13
   Glucose
   359
   154
   304
   196
   117
   109
   Other labs: PT / PTT / INR:15.7/30.3/1.4, CK / CKMB /
   Troponin-T:9//0.13, ALT / AST:[**5-8**], Alk Phos / T Bili:205/1.3, Lactic
   Acid:1.6 mmol/L, Albumin:2.3 g/dL, LDH:182 IU/L, Ca++:10.0 mg/dL,
   Mg++:2.7 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   44 year old woman with ESRD on HD with persistent hypotension.
   Hypotension:  Currently tolerating no pressors.  Source of Hypotension
   still not clear.  Possibilities include cardiogenic shock from
   decompensated HF, sepsis, less likely PE as she is not hypoxemic.
       -Review Chest CT with radiology to look for PE.
       -Check LENI's
       -Pan-cultures negative
       -Follow up Chest CT read, if no obvious infection will d/c
   antibiotics
       -If she continues to need pressors, will perform diagnostic
   paracentesis
   Volume status:
      -Will fluid restrict
      -Plans for HD tomorrow
   DM:  Will need to start basal long-acting insulin in addition to RISS
   Access:  If she remains off pressors today, d/c fem line.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2145-11-22**] 02:30 AM
   Dialysis Catheter - [**2145-11-22**] 08:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   Patient is critically ill

2145-11-26 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2145-11-25**] 08:02 AM
 ULTRASOUND - At [**2145-11-25**] 12:58 PM
   bilat lower extremities.
   - Lenis negative
   - Stopped vanco/zosyn
   - stopped pressor
   - radiology looked at CT chest; although not protocol for PE, no evid
   large pe.
   - BP stable off pressor all day
   - new clot noted on end of HD line
   - new splenic infarct
   - started  heparin gtt while awaiting TTE with bubble
   Allergies:
   Clindamycin
   Diarrhea;
   Zemplar (Intraven.) (Paricalcitol)
   Rash;
   Levofloxacin
   Nausea/Vomiting
   Trazodone
   Unknown;
   Doxycycline
   Nausea/Vomiting
   Haldol (Injection) (Haloperidol Lactate)
   pruritus;
   Last dose of Antibiotics:
   Vancomycin - [**2145-11-24**] 04:29 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-11-25**] 04:00 AM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2145-11-25**] 07:45 AM
   Heparin Sodium (Prophylaxis) - [**2145-11-25**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-26**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 101 (88 - 107) bpm
   BP: 95/55(63) {76/34(44) - 114/63(74)} mmHg
   RR: 22 (6 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,198 mL
                                                                    146 mL
   PO:
                                                                    740 mL
             TF:
   IVF:
                                                                    458 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                     50 mL
                                                                      0 mL
   Urine:
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,148 mL
                                                                    146 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   295 K/uL
   7.6 g/dL
   141 mg/dL
   4.1 mg/dL
   26 mEq/L
   4.1 mEq/L
   28 mg/dL
   101 mEq/L
   138 mEq/L
   24.3 %
   11.1 K/uL
        [image002.jpg]
                            [**2145-11-22**]  06:00 AM
                            [**2145-11-22**]  03:00 PM
                            [**2145-11-23**]  05:23 AM
                            [**2145-11-23**]  12:26 PM
                            [**2145-11-24**]  03:49 AM
                            [**2145-11-24**]  07:16 PM
                             [**2145-11-25**]  05:39 AM
                             [**2145-11-26**]  04:24 AM
   WBC
   10.7
   18.8
   16.9
   15.0
   11.1
   Hct
   28.4
   28.2
   27.1
   26.0
   24.3
   Plt
   468
   524
   450
   328
   295
   Cr
   4.0
   4.3
   4.6
   4.9
   3.6
   3.7
   4.1
   TropT
   0.14
   0.14
   0.13
   Glucose
   359
   154
   304
   196
   117
   109
   141
   Other labs: PT / PTT / INR:16.0/74.1/1.4, CK / CKMB /
   Troponin-T:9//0.13, ALT / AST:[**5-8**], Alk Phos / T Bili:205/1.3,
   Differential-Neuts:79.1 %, Lymph:10.4 %, Mono:7.6 %, Eos:2.5 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.3 g/dL, LDH:182 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   44 y/o F w. DM, CAD, prior CABG h/o MRSA line infections presents from
   HD with hypotension.
   .
   # Hypotension: Unclear etiology.  Confirmed by A-line yesterday.  CT
   with finding of possible splenic laceration with unclear clinical
   significance.  Consider further imaging PRN.  Cardiac unlikely given
   echo findings, ECG and CE
s, infectious is more likely but no culture
   growth, must also consider PE, RV infarct, decompensated heart failure
   given recent echo findings of dilated RV.
   - Discuss CT Torso with radiology regarding question of PE, Check
   LENI
   - wean pressors as tolerated and go by mental status with MAP > 55,
   trend lactate
   - d/c antibiotics today
   - TTE: with dilated RV
   - C. Diff negative
   - Wound culture pending
   - trend lactate today
   .
   #Volume/ESRD: Renal dialyzed yesterday.
   -Total body volume overloaded but improved s/p net 2L fluid removal.
   .
   # Diarrhea: resolved, follow stools.  Given nursing home resident
   taking abx as outpatient would rule out C. Diff infection.
   - c. diff studies negative x1
   - guaiac stools.
   .
   # CAD: Continue outpatient medications except BP meds
   - hold lisinopril, atenolol
 restart when able
   .
   # Diabetes: Last A1c was 7.4, will add low dose insulin today.
   - Continue insulin regimen.
   - Clarify home doses.
   .
   # Anemia: Likely Anemia of chronic disease due to ESRD, but given
   report of bloody stools, and patient mildly off baseline would guaiac
   stools.  Ferritin 490 in [**Month (only) **] so not likely to be iron deficient
   unless having acute blood loss in stools.
   - Hct stable, continue to trend
   .
   #Psych: Will need inpatient psych admission following this hospital
   stay.  Ongoing difficulty with participating in care plan, psych to
   assist with forming care plan.  This has been arranged by outpatient
   psychiatrist prior to this admission.
   - appreciate psych rec's
   .
   # FEN: replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin, H2 blocker
   .
   # Access: femoral line placed on night of admission in [**Last Name (LF) **], [**First Name3 (LF) 178**] need to
   consider change of femoral line today given now 48 hours since placed,
   TDC, consider change of TDC if cultures turn positive
   .
   # Code: full - confirmed with patient
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-11-22**] 02:30 AM
   Dialysis Catheter - [**2145-11-22**] 08:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-11-26 12:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Chest CT revealed clot on the end of her HD line as well as a splenic
   infarct-->started on heparin
   Remained off of pressors overnight
   Refusing po meds today except for Tums
                   History obtained from Patient
   Allergies:
   Clindamycin
   Diarrhea;
   Zemplar (Intraven.) (Paricalcitol)
   Rash;
   Levofloxacin
   Nausea/Vomiting
   Trazodone
   Unknown;
   Doxycycline
   Nausea/Vomiting
   Haldol (Injection) (Haloperidol Lactate)
   pruritus;
   Last dose of Antibiotics:
   Vancomycin - [**2145-11-24**] 04:29 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-11-25**] 04:00 AM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Other medications:
   Nephrocaps, Bacitracin opth, cinacalcet, colace, tums, simvastatin,
   ASA, Folate, Plavix, Fomotidine, miconazole, lidocaine patch, RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-26**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 99 (88 - 104) bpm
   BP: 104/60(70) {76/34(44) - 116/69(80)} mmHg
   RR: 9 (6 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,198 mL
                                                                    429 mL
   PO:
                                                                    740 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    458 mL
                                                                    229 mL
   Blood products:
   Total out:
                                                                     50 mL
                                                                      0 mL
   Urine:
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,148 mL
                                                                    429 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Angry
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   295 K/uL
   141 mg/dL
   4.1 mg/dL
   26 mEq/L
   4.1 mEq/L
   28 mg/dL
   101 mEq/L
   138 mEq/L
   24.3 %
   11.1 K/uL
        [image002.jpg]
                            [**2145-11-22**]  06:00 AM
                            [**2145-11-22**]  03:00 PM
                            [**2145-11-23**]  05:23 AM
                            [**2145-11-23**]  12:26 PM
                            [**2145-11-24**]  03:49 AM
                            [**2145-11-24**]  07:16 PM
                             [**2145-11-25**]  05:39 AM
                             [**2145-11-26**]  04:24 AM
   WBC
   10.7
   18.8
   16.9
   15.0
   11.1
   Hct
   28.4
   28.2
   27.1
   26.0
   24.3
   Plt
   468
   524
   450
   328
   295
   Cr
   4.0
   4.3
   4.6
   4.9
   3.6
   3.7
   4.1
   TropT
   0.14
   0.14
   0.13
   Glucose
   359
   154
   304
   196
   117
   109
   141
   Other labs: PT / PTT / INR:17.0/74.1/1.5, CK / CKMB /
   Troponin-T:9//0.13, ALT / AST:[**5-8**], Alk Phos / T Bili:205/1.3,
   Differential-Neuts:79.1 %, Lymph:10.4 %, Mono:7.6 %, Eos:2.5 %, Lactic
   Acid:1.8 mmol/L, Albumin:2.3 g/dL, LDH:182 IU/L, Ca++:9.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Imaging: TTE:  PFO is present.
   LENI's are negative
   Microbiology: BCx:  NGTD
   C diff neg
   Assessment and Plan
   44 year old woman with ESRD on HD with persistent hypotension.
   Hypotension:  Currently tolerating no pressors for >24hours.  Source of
   Hypotension still not clear.  Possibilities include cardiogenic shock
   from decompensated HF, sepsis, less likely PE as she is not hypoxemic.
   Pan-cultures negative
   Clot:  PFO apparently present on echo.  Per renal team, she has a
   history of retinal hemorrhage.
      -Would consult optho to weigh in on risks of occular hemorrhage with
   ASA, plavix and the addition of heparin.  If risks are too high, may
   consider stopping anticoagulation.
    Volume status:
      -Will fluid restrict
      -Plans for HD per renal
    DM:  Will need to start basal long-acting insulin in addition to RISS
    Access:  To go for IR guided PICC, when in-->d/c fem line.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2145-11-22**] 02:30 AM
   Dialysis Catheter - [**2145-11-22**] 08:35 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes